US09102688B2
2,6-Difluoro-N-quinolin-8-yl-benzenesulfonamide (Example Compound 64)
In a similar fashion using route 14 general procedure 27, 8-aminoquinoline (100 mg, 0.70 mmol), 2,6-difluorobenzenesulfonyl chloride (170 mg, 0.83 mmol) and DMAP (cat.) gave the title compound (100 mg, 45%) after purification by column chromatography with DCM as the eluent followed by trituration from EtOAc/n-hexane.

reactant | 8-aminoquinoline | 0.70 mmol, 100 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 2,6-difluorobenzenesulfonyl chloride | 0.83 mmol, 170 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,6-Difluoro-N-quinolin-8-yl-benzenesulfonamide | 100 mg, 45% | FC1=C(C(=CC=C1)F)S(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C15H10F2N2O2S
